US06914060B2
3-Methyl-3H-imidazo[2,1-f][1,2,4]triazin-4-one (75 mg, 0.5 mmol), 5′-bromo-4,2′-difluorobiphenyl-2-carbonitrile (prepared according to the procedure described in WO 02/38568) (220 mg, 0.75 mmol) and potassium acetate (74 mg, 0.75 mmol) were suspended in N,N-dimethylacetamide (2 ml) and degassed with nitrogen for 10 min. Palladium(II) acetate (5.6 mg, 0.025 mmol) and triphenylphosphine (6.6 mg, 0.025 mmol) were added and the mixture heated at 120° C. for 1 h. The mixture was allowed to cool to ambient temperature, diluted with ethyl acetate (100 ml), washed with water (50 ml) and brine (30 ml), dried over anhydrous sodium sulfate, filtered and evaporated to give a brown solid. The solid was purified by flash column chromatography on silica, eluting with dichloromethane on a gradient of methanol (0-2%). The appropriate fractions were collected and concentrated, and the residue triturated with diethyl ether, which gave 4,2′-difluoro-5′-(3-methyl-4-oxo-3,4-dihydroimidazo[2,1-f][1,2,4] triazin-7-yl)biphenyl-2-carbonitrile (139 mg, 77%) as a white solid: δH (500 MHz, CDCl3) 3.55 (3H, s), 7.27 (1H, dd, J9 and 9), 7.35 (1H, ddd, J8, 8 and 3), 7.45 (1H, dd, J8 and 3), 7.47-7.49 (1H, m), 7.71 (1H, s), 7.73 (1H, s), 7.89-7.92 (2H, m); m/z (ES+) 364 (M++H).

reactant | 3-Methyl-3H-imidazo[2,1-f][1,2,4]triazin-4-one | 0.5 mmol, 75 mg | CN1C=NN2C(C1=O)=NC=C2 | C6H6N4O
reactant | 5′-bromo-4,2′-difluorobiphenyl-2-carbonitrile | BrC=1C=CC(=C(C1)C=1C(=CC(=CC1)F)C#N)F | C13H6BrF2N
reactant | potassium acetate | 0.75 mmol, 74 mg | C(C)(=O)[O-].[K+]
solvent | N,N-dimethylacetamide | 2 ml | CN(C(C)=O)C | C4H9NO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
catalyst | Palladium(II) acetate | 0.025 mmol, 5.6 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | triphenylphosphine | 0.025 mmol, 6.6 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 4,2′-difluoro-5′-(3-methyl-4-oxo-3,4-dihydroimidazo[2,1-f][1,2,4] triazin-7-yl)biphenyl-2-carbonitrile | 139 mg, 77% | FC=1C=C(C(=CC1)C1=C(C=CC(=C1)C1=CN=C2C(N(C=NN21)C)=O)F)C#N | C19H11F2N5O
